US08629160B2
A mixture of 2-(6-methoxypyridin-3-yl)-2-(phenylamino)acetic acid (I1) (100 mg, 0.39 mmol), (R)-quinuclidin-3-ol (59.1 mg, 0.46 mmol), HOBT (71.2 mg, 0.46 mmol) and DCC (96 mg, 0.46 mmol) was dissolved in dry THF (10 ml). The resulting reaction was stirred at room temperature overnight. Then solvent was removed under reduced pressure, and the residue was taken up with EtOAc and washed twice with 2M K2CO3. The organic phase was dried over Na2SO4, filtered and evaporated to dryness. The crude was purified by flash chromatography (DCM/MeOH=98/2) to obtain (R)-quinuclidin-3-yl 2-(6-methoxypyridin-3-yl)-2-(phenylamino)acetate (33 mg, 23% yield).

reactant | 2-(6-methoxypyridin-3-yl)-2-(phenylamino)acetic acid | 0.39 mmol, 100 mg | COC1=CC=C(C=N1)C(C(=O)O)NC1=CC=CC=C1 | C14H14N2O3
reactant | (R)-quinuclidin-3-ol | 0.46 mmol, 59.1 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | HOBT | 0.46 mmol, 71.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.46 mmol, 96 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(6-methoxypyridin-3-yl)-2-(phenylamino)acetate | 33 mg, 23% yield | COC1=CC=C(C=N1)C(C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H25N3O3
